US04193999
A. 1,3-Di-O-(n-hexadecyl)-2-O-(2-cyanoethyl)-glycerol
A mixture of 1,3-di-O-(n-hexadecyl)-glycerol (80 g., 148 mmoles), acrylonitrile (1.49 kg., 28.1 moles) and aqueous 2 N sodium hydroxide (1.2 l.) was heated to 50° C. Tetrabutylammonium hydroxide (19.2 g. of 40 wt. % aqueous solution, 29.15 mmoles) was slowly added, causing the temperature of the exothermic reaction mixture to rise to about 80° to 90° C. The reaction mixture was then stirred for 20 minutes without any external heating, followed by cooling to 20° C. and addition of water (1.0 l.). A solid material, a mixture of unreacted and cyanoethylated 1,3-di-O-(n-hexadecyl)-glycerol, was isolated and treated again with fresh acrylonitrile (1.49 kg., 28.1 moles), aqueous 2 N sodium hydroxide (1.2 l.) and tetrabutylammonium hydroxide (19.2 g. of 40 wt. % aqueous solution, 29.15 mmoles) for 20 minutes with stirring at 50° C., followed by cooling and addition of water (1.0 l.). The resulting 1,3-di-O-(n-hexadecyl)-2-O-(2-cyanoethyl)-glycerol solids were filtered, washed consecutively with water, methanol and acetonitrile, and dried [82 g., 93% yield, m.p. 45°-46° C., ir (CHCl3) 2250 cm-1, n.m.r. (CDCl3) δ 3.92 (t, 2, NCCH2CH2O--), 3.33-3.67 (m, 9, --OCH[CH2OCH2C15H31 ]2), 2.62 (t, 2, NCCH2CH2O--) and 0.75-1.58 (m, 62, aliphatic protons)].

reactant | 1,3-di-O-(n-hexadecyl)-glycerol | 148 mmoles, 80 g | C(CCCCCCCCCCCCCCC)OCC(O)COCCCCCCCCCCCCCCCC | C35H72O3
reactant | acrylonitrile | 28.1 moles, 1.49 kg | C(C=C)#N | C3H3N
reactant | sodium hydroxide | 2 N, 1.2 l | [OH-].[Na+]
reactant | Tetrabutylammonium hydroxide | 29.15 mmoles, 19.2 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acrylonitrile | 28.1 moles, 1.49 kg | C(C=C)#N | C3H3N
reactant | sodium hydroxide | 2 N, 1.2 l | [OH-].[Na+]
reactant | tetrabutylammonium hydroxide | 29.15 mmoles, 19.2 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1.0 l | O | H2O
solvent | water | 1.0 l | O | H2O
product | 1,3-Di-O-(n-hexadecyl)-2-O-(2-cyanoethyl)-glycerol | 93% yield | C(CCCCCCCCCCCCCCC)OCC(OCCC#N)COCCCCCCCCCCCCCCCC | C38H75NO3
